US04435404
Into 200 ml of chloroform were added 5.9 g of 1-allyl-6-(3-carboxypropoxy)carbostyril and 3.2 g of DBU. The outside of the reaction vessel containing the above mentioned mixture was ice-cooled and 2.8 g of isobutyl chloroformate was added dropwise to the mixture under stirring condition. After the addition operation the reaction mixture was stirred for 1 hour, then 3.7 g of N-cyclohexylpiperazine was added dropwise to the reaction mixture and the reaction was continued for 5 hours. After the reaction was compleated, the reaction mixture was washed with a 1% NaOH aqueous solution and water, then the organic layer was dried with anhydrous Na2SO4. The drying agent was removed by filtration and the mother liquor was concentrated. The residue thus obtained was treated by a silica-gel column chromatography (solvent used was a mixture of chloroform:methanol=30:1) to obtain elute. 4.2 Grams of 1-allyl-6-[3-(4-cyclohexyl-1-piperazinylcarbonyl)propoxy]carbostyril was obtained from the elute, in the form of a colorless oily substance.

reactant | 1-allyl-6-(3-carboxypropoxy)carbostyril | 5.9 g | C(C=C)N1C(=O)C=CC2=CC(=CC=C12)OCCCC(=O)O | C16H17NO4
reactant | DBU | 3.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 2.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-cyclohexylpiperazine | 3.7 g | C1(CCCCC1)N1CCNCC1 | C10H20N2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-allyl-6-[3-(4-cyclohexyl-1-piperazinylcarbonyl)propoxy]carbostyril | C(C=C)N1C(=O)C=CC2=CC(=CC=C12)OCCCC(=O)N1CCN(CC1)C1CCCCC1 | C26H35N3O3
